* C:\Users\Austin\Downloads\izhikevich_neurontemplatetest10.asc
* Generated by LTspice 24.1.9 for Windows.
Vc N028 0 140mV
I1 N031 N016 2pA
Vdd1 N003 0 180mV
Vdd2 N001 0 180mV
Vd N006 0 140mV
Cu N012 N031 300f
Cv N016 0 20f
C1 N020 0 25f
V§Req N020 0 PULSE(0 0.18V 1m 100n 100n 100n 10n)
V§Ack2 N002 0 PULSE(0 0.18 0.001m 100n 100n 100n 10n)
M7 N016 N002 N028 N024 NMOS l=175n w=350n
M6 N012 N012 N031 N025 NMOS l=700n w=150n
M5 N016 N012 N031 N023 NMOS l=400n w=600n
M2 N007 N016 N031 N017 NMOS l=300n w=125n
M13 N018 N002 N001 N015 PMOS l=200n w=100n
M8 N012 N005 N006 N009 PMOS l=1.3u w=125n
M4 N012 N007 N003 N011 PMOS l=650n w=90n
M3 N016 N007 N003 N010 PMOS l=300n w=125n
M1 N007 N007 N003 N008 PMOS l=300n w=125n
M10 N021 N016 N001 N019 PMOS l=1u w=100n
M12 N013 N021 N018 NC_01 PMOS l=100n w=100n
M18 N020 N013 N001 N014 PMOS l=200n w=100n
M9 N021 N016 0 N027 NMOS l=100n w=100n
M11 N013 N021 0 N029 NMOS l=1u w=100n
M17 N005 N002 N001 N004 PMOS l=100n w=100n
M16 N005 N002 N026 N022 NMOS l=100n w=100n
M14 N026 N013 0 N030 NMOS l=100n w=100n
M15 N020 N013 0 NC_02 NMOS l=100n w=250n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Austin\AppData\Local\LTspice\lib\cmp\standard.mos
* U
* V
.tran 0 6ms 1ms 1ms
.backanno
.end
