
* PTM 45nm MOSFETs - Subcircuit Wrapper Library

* NMOS Wrapper
.SUBCKT PTM_NMOS D G S B
M1 D G S B NMOS L=45n W=1u
.ENDS

* PMOS Wrapper (assumes a corresponding PMOS model is defined elsewhere)
.SUBCKT PTM_PMOS D G S B
M1 D G S B PMOS L=45n W=1u
.ENDS
